US08466186B2
(e) N-{4-Chloro-3-[5-chloro-6-(2-dimethylaminomethyl-pyrrolidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-2,2-dimethyl-propionamide
The title compound was prepared analogously to example 3 step (e) from 4-chloro-3-[5-chloro-6-(2-dimethylaminomethyl-pyrrolidin-1-yl)-1H-benzimidazol-2-ylamino]-benzylamine (30 mg), pivaloyl chloride (10 μL, 0.06 mmol) and TEA (70 μL, 0.54 mmol) in THF (2 mL).

reactant | 4-chloro-3-[5-chloro-6-(2-dimethylaminomethyl-pyrrolidin-1-yl)-1H-benzimidazol-2-ylamino]-benzylamine | 30 mg | ClC1=C(C=C(CN)C=C1)NC1=NC2=C(N1)C=C(C(=C2)Cl)N2C(CCC2)CN(C)C | C21H26Cl2N6
reactant | pivaloyl chloride | 0.06 mmol, 10 μL | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-{4-Chloro-3-[5-chloro-6-(2-dimethylaminomethyl-pyrrolidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-2,2-dimethyl-propionamide | ClC1=C(C=C(CNC(C(C)(C)C)=O)C=C1)NC1=NC2=C(N1)C=C(C(=C2)Cl)N2C(CCC2)CN(C)C | C26H34Cl2N6O
